US05866573
Step D: 3-(2-Cyclopropylethylamino)-5-chloro-6-methyl-1-(benzyloxycarbonylmethyl)-pyrazinone
A mixture of 2-cyclopropylethylamine hydrochloride (73 mg, 0.60 mmol), 1-benzyloxycarbonylmethyl-3,5-dichloro-6-methylpyrazinone (164 mg, 0.50 mmol) and sodium hydrogen carbonate (101 mg, 1.20 mmol) in toluene (1 mL) and water (0.5 mL) was stirred at 80° C. for 3 h. The reaction was then cooled and partitioned between methylene chloride and 10% citric acid solution. The organic layer was dried (Na2SO4) and evaporated in vacuo to give the title compound as a crystalline solid:

reactant | 2-cyclopropylethylamine hydrochloride | 0.60 mmol, 73 mg | Cl.C1(CC1)CCN
reactant | 1-benzyloxycarbonylmethyl-3,5-dichloro-6-methylpyrazinone | 0.50 mmol, 164 mg | C(C1=CC=CC=C1)OC(=O)CN1C(C(=NC(=C1C)Cl)Cl)=O | C14H12Cl2N2O3
reactant | sodium hydrogen carbonate | 1.20 mmol, 101 mg | C(O)([O-])=O.[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.5 mL | O | H2O
product | 3-(2-Cyclopropylethylamino)-5-chloro-6-methyl-1-(benzyloxycarbonylmethyl)-pyrazinone | C1(CC1)CCNC=1C(N(C(=C(N1)Cl)C)CC(=O)OCC1=CC=CC=C1)=O | C19H22ClN3O3
